US07317037B2
B. 5-bromo-7-fluoro-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one
7-Fluoro-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one (0.10 g, 0.52 mmol) was dissolved in 5 mL of CH2Cl2 and sodium acetate (47 mg, 0.56 mmol) was added followed by bromine (0.029 mL, 0.56 mmol). The mixture was stirred at 25° C. for 16 h then loaded directly onto a silica gel column. The column was eluted with 250 mL of CH2Cl2 and 250 mL 5% Acetone/CH2Cl2 to provide the title compound (116 mg) as a white solid (82%).

reactant | 7-Fluoro-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one | 0.52 mmol, 0.10 g | FC=1C=CC=C2C(C(N(C12)C)=O)(C)C | C11H12FNO
reactant | sodium acetate | 0.56 mmol, 47 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.56 mmol, 0.029 mL | BrBr | Br2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-7-fluoro-1,3,3-trimethyl-1,3-dihydro-2H-indol-2-one | 116 mg, 82% | BrC=1C=C2C(C(N(C2=C(C1)F)C)=O)(C)C | C11H11BrFNO
